### PR TITLE
[Merged by Bors] - feat: abstract continuous functional calculus for unital algebras

### PR DESCRIPTION
**Pull request by j-loreaux**
This PR introduces two classes `ContinuousFunctionalCalculus` and `UniqueContinuousFunctionalCalculus`. The former provides a collection of star algebra homomoprhisms from the continuous functions on the spectrum of an element `a : A`, into the algebra `A` itself, subject to the constraint that `a` satisfies a certain predicate `p : A → Prop`. These morphisms are continuous (even closed embeddings) and send the identity function to `a` itself, and moreover, the spectrum of the image of an element is its range.

The latter class says that there is at most one such star algebra homomorphism which is continuous and maps the identity to `a`; in practice, this is a consequence of the Stone-Weierstrass theorem, but we create a separate class because we will also want a version for `ℝ≥0`-valued functions. This latter class is the key to establish the compositional property of the continuous functional calculus, `cfc_comp : cfc a (g ∘ f) = cfc (cfc a f) g`. This is one of the key properties of the continuous functional calculus that makes it useful.

---

Note to reviewers: this PR has been completely overhauled, so none of the messages ‌/ reviews prior to 2024-02-19 are relevant.

Also, any line labeled `-- hack` is there to make `fun_prop` see through the `autoParam`. This will be fixed in #10724.

- [x] depends on: #5267
- [x] depends on: #8986
- [x] depends on: #8991
- [x] depends on: #8992
- [x] depends on: #10769

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5267
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 1]
```diff
@@ -0,0 +1,1003 @@
...
+  · rintro ⟨x, rfl⟩
+    exact ⟨x, x.prop, rfl⟩
+  · rintro ⟨x, hx, rfl⟩
+    exact ⟨⟨x, hx⟩, rfl⟩
+#align cfc₂_map_spectrum' cfc₂_map_spectrum'
+
+theorem cfc₂_comp {R A : Type _} [CommSemiring R] [StarRing R] [TopologicalSpace R]
+    [TopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A] [TopologicalSpace A]
+    [Algebra R A] (a : A) [CFCClass R a] (f g : C(R, R)) [CFCCoreClass R (cfc₂ R a f)]
+    [Subsingleton (CFCCoreClass R (cfc₂ R a f))] : cfc₂ R a (g.comp f) = cfc₂ R (cfc₂ R a f) g := by
```
Comment (ADedecker) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:463]: Do you think it would be useful to have a version saying `cfc₁ R a (g.comp f) = cfc₂ R (cfc₁ R a f) g`?

**Comment by ADedecker** [comment]
I haven't looked at everything carefully, but this looks very promising. One thing I'm wondering is wether we could find a typeclass that would also encompass the Borel Functional Calculus, but that is probably too much to ask for.

Quick questions:
- I'm probably missing something obvious, but do you have examples where `CFCCoreClass` holds but not `CFCClass`?
- regarding the names, what do you think about `CFC` and `SpectrumPreservingCFC`? There is also the closed embedding difference of course, but maybe we can not insist on that in the names.

**Comment by j-loreaux** [comment]
No, I don't have an example.

The `CFCCoreClass` only exists to make the proof of the composition property easier. When proving that, you need to construct a CFC in the middle of the proof, then you use that it is a subsingleton to say that the one you constructed is equal to the one you already have. However, since the subsingleton property holds for `Core` we can do less work in the construction.

Note: I am also keen to use the `Subsingleton` proof because we will be able to supply an instance when the scalars are `NNReal` too, even though right now the only one we have is for `IsROrC`.

File: Mathlib/Topology/ContinuousFunction/CFC.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/CFC.lean:463]: Try writing it down (the statement) and then you'll see the problem.

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/CFC.lean:463]: Yes, I think that's definitely worthwhile. I'll add it.

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/CFC.lean]: @ADedecker I actually ended up adding the version for `cfc₁` anyway, because it's essentially what was going on in the proofs of the others. So now there's a `cfc₁_comp`, a `cfc₁₂_comp` and a `cfc₂_comp`.

**Comment by ADedecker** [comment]
I spent some time thinking about how I would do this, here's a summary of my (untested!) ideas. Some of them are probably overkill but I still want to write them down somewhere, and I hope at least some of it will be useful. Also disclaimer that I'm probably not familiar enough with the material to avoid making some silly mistake, sorry in advance!

My first and main idea is to have a class `FunctionalCalculus R F a X` expressing that the `R` (?)-algebra `F` (which is morally an algebra of functions) on the element `a : A`, where `A` is a `R` (?)-algebra, and that this functional calculus maps some distinguished element `X : F` to `a`. Under this assumption, we would be able to write `fc R a f` for any `f : F`.
Here (?)-algebra means that we have to think about what assumptions we put on the algebra. We also get to choose properties of the functional calculus (the bare minimum being of course algebra homomorphism), and depending on the level of generality we choose we'll be able to state some of the followings:
- when `A` is a C*-algebra and `a : A` is star-normal, we can have two instances encompassing both your `cfc₁` and `cfc₂`, namely `FunctionalCalculus R C(spectrum R a, R) a X.toContinuousMapOn` as well as `FunctionalCalculus R C(R, R) a X.toContinuousMap` [1]. That means that we can kind of unify the APIs, at least for the user perspective (we still need to define all of the instances twice though). This also means that, even if we don't want it as an global instance, a user could add instances of `FunctionalCalculus R C(T, R) a X.toContinuousMapOn` if they know that `T` contains the spectrum of `a`. [2]
- if we don't impose too strong continuity assumption, this same setup could apply to the borel functional calculus.
- if we don't ask for unital algebras, this same setup could apply to the continuous functional calculus of non-unital C*-algebras [3]
- I'm not sure how useful it is, but we can make an instance for polynomials :sweat_smile: It may be convenient if we want to use some general composition setup, see below.

Of course this doesn't allow for a lot of factoring in the actual mathematical content, because a lot of properties will only work for one functional calculus. But the point is that, for the user, it provides a more unified experience and less lemma names to remember (and less chance that we forget stating a result for only one of the calculi).

The next step is figuring how to state and prove the spectrum and composition properties in this setup. I think from the user point of view, the most basic version would be to have the following two mixins:
- `MapsSpectrum R F x im`, where `im : F -> Set R` [4], saying that the spectrum of `fc R a f` is exactly `im f`. Typically `im` would be the range of f / f(Sp a) / the essential range of f.
- `CompFCClass R f1 a cmp`, where `f1 : F1`, `cmp F2 -> F3`, `[FunctionalCalculus R F1 a X1]`, `[FunctionalCalculus R F3 a X3]`, `[FunctionalCalculus R F2 (fc R f1 a) X2]`, saying that for all `f2 : F2`, we have `fc R (fc R a f1) f2 = fc R a (cmp f2)`. Typically, cmp would be pre-composition by `f1`. The nice thing is that, from the user perspective there'd be exactly one lemma for your three existing versions, and the same lemma could also apply to compositions between continuous and borel functional calculi for example. The not-so-nice thing is that you still have to provide all of these instances by hand. This leads me to my other idea.

This second idea is a way of systematizing the proofs of composition properties, either in the context of the aforementioned `CompFCClass` or just for proving manual lemmas. This can be adapted to be independent of the previous idea if necessary. We would have a class/structure `UniqueFunctionalCalculus R F a X p q` [5] where `p : FunctionalCalculus R F a X -> Prop` adds additional restrictions to the functional calculus (typically continuity if we don't require it in `FunctionalCalculus` and `q : F -> F -> Prop` is a relation of functions. This would be defined as "given two functional calculi `φ` and `ψ` satisfying `p`, and which are compatible with the relation `q`, then they are equal". In the unital CFC case, we would have the usual `UniqueFunctionalCalculus R C(spectrum R a, R) a X.toContinuousMapOn continuous (· = ·)`, but also `UniqueFunctionalCalculus R C(R, R) a X.toContinuousMap continuous (EqOn (spectrum R A))` giving some kind of uniqueness result for `cfc₂`. Using that we can write a "composition factory" lemma to prove the composition property purely by verifying that the predicate `p` and the relation `q` behave "nicely" under our composition operation, whatever it is.  (I'll edit it in there later, I need some time to write this lemma properly).

Again, this is probably overkill, but the semilinear maps API suggest that it is at least possible, and I wanted to write in completely somewhere if we decide to pick some ideas from it in the future.

Footnotes:
- [1] using `Polynomial.toContinuousMap[On]` seems a bit weird, using `ContinuousMap.id` seems easier but I don't know if we have a name for the inclusion map as a bundled `ContinuousMap`
- [2] I think we could also use the freedom given by the choice of algebra to take care some of the "change of base ring" stuff, but I haven't thought about it enough.
- [3] if we do so we'll probably need a `UnitalFunctionalCalculus` typeclass that extends `FunctionalCalculus`, and we could have notations like `fcₙ` for the non-unital one and `fc` for the unital one
- [4] would be an `OutParam`

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 2]
```diff
@@ -0,0 +1,1111 @@
...
+@[ext (flat := false)]
+class CFCCoreClass (R : Type*) {A : Type*} [CommSemiring R] [StarRing R] [TopologicalSpace R]
+    [TopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A] [TopologicalSpace A]
+    [Algebra R A] (a : A) extends C(spectrum R a, R) →⋆ₐ[R] A where
+  /-- A continuous functional calculus is a continuous map. -/
+  hom_continuous : Continuous toStarAlgHom
+  /-- A continuous functional calculus extends the polynomial functional calculus. -/
+  hom_map_X : toStarAlgHom (toContinuousMapOnAlgHom (spectrum R a) X) = a
+
+-- Question: do we want to make this a `UniformEmbedding` too?
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:172]: I vote for "no" right now, we can always revisit this choice later.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 3]
```diff
@@ -0,0 +1,1111 @@
...
+/-- A `cfc_class R a` is a star algebra homomorphism from the continuous
+`R`-valued functions defined on the spectrum of `a : A` into the algebra `A` which is in addiiton
+continuous and extends the polynomial functional calculus. More precisely, this latter statement
+is encapsulated in `cfc₁_map_polynomial`. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:176]:
```suggestion
/-- A `CFCClass R a` is a star algebra homomorphism from the continuous
`R`-valued functions defined on the spectrum of `a : A` into the algebra `A` which is in addiiton
continuous and extends the polynomial functional calculus. More precisely, this latter statement
is encapsulated in `cfc₁_map_polynomial`. -/
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 4]
```diff
@@ -0,0 +1,1111 @@
...
+
+section CFCCore
+
+variable [CFCCoreClass R a]
+
+/-- The `StarAlgHom` underlying an instance of the continuous functional calculus. -/
+def cfc₁ : C(spectrum R a, R) →⋆ₐ[R] A := CFCCoreClass.toStarAlgHom
+
+/-- This is `cfc₁` composed with the natural star algebra homomorphism from `C(R, R)` into
+`C(spectrum R a, R)` given by precompostion with the embedding of `spectrum R a` into `R`.
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:220]:
```suggestion
/-- This is `cfc₁` composed with the natural star algebra homomorphism from `C(R, R)` into
`C(spectrum R a, R)` given by precomposition with the embedding of `spectrum R a` into `R`.
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 5]
```diff
@@ -0,0 +1,1111 @@
...
+
+While `cfc₁` is necessary in order to have some of the key properties (e.g., uniqueness of the
+continuous funcitonal calculus, injectivity, mapping into the `elementralStarAlgebra`, etc.), it
+is expected that this version will be more useful in practice. In particular, it will naturally
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:224]:
```suggestion
continuous funcitonal calculus, injectivity, mapping into the `elementalStarAlgebra`, etc.), it
is expected that this version will be more useful in practice. In particular, it will naturally
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 6]
```diff
@@ -0,0 +1,1111 @@
...
+    cfc₂ R a (f.comp (p.toContinuousMap)) = cfc₂ R (aeval (R := R) a p) f :=
+  cfc₁₂_polynomial_comm a p f
+
+lemma cfc₁₂_pow_comm (n : ℕ) [h : CFCCoreClass R (a ^ n)]
+    [h' : Subsingleton (CFCCoreClass R (a ^ n))] (f : C(R, R)) :
+    cfc₁ R a (f.comp (((X : R[X]) ^ n).toContinuousMapOn (spectrum R a))) = cfc₂ R (a ^ n) f := by
+  have key : aeval (R := R) a ((X : R[X]) ^ n) = a ^ n := by simp
+  have : CFCCoreClass R (aeval (R := R) a ((X : R[X]) ^ n)) := by convert h
+  have : Subsingleton (CFCCoreClass R (aeval (R := R) a ((X : R[X]) ^ n))) := by convert h'
+  convert cfc₂_polynomial_comm a ((X : R[X]) ^ n) f
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:403]: I'm a bit worried about this pattern coming up over and over. I guess the expectation is that 99% of the time we'll be working over a type for which we have these instances for e.g. all normal elements and they're therefore easy to find?

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 7]
```diff
@@ -0,0 +1,1111 @@
...
+    (f : C(R, R)) : cfc₂ R a (f.comp (-ContinuousMap.id R)) = cfc₂ R (-a) f :=
+  cfc₁_neg_comm a f
+
+end Ring
+
+section Field
+
+variable {F A : Type*} [Field F] [StarRing F] [TopologicalSpace F]
+    [TopologicalRing F] [ContinuousStar F] [Ring A] [StarRing A] [TopologicalSpace A] [Algebra F A]
+    (a : A) [CFCClass F a] [h : CFCClass F (1 : A)] [h' : Subsingleton (CFCCoreClass F (1 : A))]
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:474]: I don't really like the idea of using `F` for fields; in most of mathlib `E`, `F` are things like vector spaces, and `𝕜` is the field.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 8]
```diff
@@ -0,0 +1,1111 @@
...
+    ContinuousMap.starAlgHom_ext_map_X h₁.hom_continuous h₂.hom_continuous <|
+      h₁.hom_map_X.trans h₂.hom_map_X.symm
+
+variable [TopologicalRing A] [ContinuousStar A] (a : A) [CompactSpace (spectrum 𝕜 a)]
+    [CFCCoreClass 𝕜 a]
+
+variable (𝕜)
+
+/-- The range of the continuous functional calculus is contained in the `elementralStarAlgebra`
+generated by the element. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:566]:
```suggestion

/-- The range of the continuous functional calculus is contained in the `elementalStarAlgebra`
generated by the element. -/
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 9]
```diff
@@ -0,0 +1,1111 @@
...
+  rw [StarAlgHom.range_eq_map_top, ← polynomialFunctions.starClosure_topologicalClosure]
+  refine (StarSubalgebra.map_topologicalClosure_le _ _ (cfc₁_continuous 𝕜 a)).trans <|
+    StarSubalgebra.topologicalClosure_mono ?_
+  rw [polynomialFunctions.starClosure_eq_adjoin_X, StarAlgHom.map_adjoin]
+  refine StarSubalgebra.adjoin_le ?_
+  simpa only [Set.image_singleton, Set.singleton_subset_iff, toContinuousMapOnAlgHom_apply,
+    cfc₁_map_X] using StarSubalgebra.self_mem_adjoin_singleton 𝕜 a
+
+/-- The range of the continuous functional calculus is contained in the `elementralStarAlgebra`
+generated by the element. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:577]:
```suggestion
/-- The range of the continuous functional calculus is contained in the `elementalStarAlgebra`
generated by the element. -/
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 10]
```diff
@@ -0,0 +1,1111 @@
...
+theorem cfc₂_range_le : (cfc₂ 𝕜 a).range ≤ elementalStarAlgebra 𝕜 a := by
+  rintro _ ⟨f, rfl⟩
+  exact cfc₁_range_le 𝕜 a ⟨_, rfl⟩
+
+variable {𝕜}
+
+/-- The range of the continuous functional calculus is contained in the `elementralStarAlgebra`
+generated by the element. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:585]:
```suggestion
/-- The range of the continuous functional calculus is contained in the `elementalStarAlgebra`
generated by the element. -/
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 11]
```diff
@@ -0,0 +1,1111 @@
...
+range is precisely the `elementalStarAlgebra` generated by `a`. -/
+theorem cfc₁_range : (cfc₁ 𝕜 a).range = elementalStarAlgebra 𝕜 a := by
+  rw [StarAlgHom.range_eq_map_top, ← polynomialFunctions.starClosure_topologicalClosure, ←
+    StarSubalgebra.topologicalClosure_map _ _ (cfc₁_closedEmbedding 𝕜 a),
+    polynomialFunctions.starClosure_eq_adjoin_X, StarAlgHom.map_adjoin]
+  congr
+  rw [Set.image_singleton, toContinuousMapOnAlgHom_apply, cfc₁_map_X]
+
+-- this is the only direct result where we need the `topology.tietze_extension`
+-- and also `topology.metric_space.emetric_paracompact` for `normal_space` instance.
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:612]:
```suggestion
-- this is the only direct result where we need the `topology.tietze_extension`
-- and also `topology.metric_space.emetric_paracompact` for `normal_space` instance.
```
This comment needs to be updated to mathlib4 terminology. I think this is talking about file imports but then there's a missing word in that sentence.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 12]
```diff
@@ -0,0 +1,1111 @@
...
+  apply IsROrC.ext <;>
+    simp [ContinuousMap.compStarAlgHom', ContinuousMap.restrict, ContinuousMap.comp, (· ∘ ·),
+      ContinuousMap.smul_apply IsROrC.I]
+  · exact FunLike.congr_fun hf_re x
+  · rw [← IsROrC.I_im' (f x)]
+    congr! 1
+    exact FunLike.congr_fun hf_im x
+
+/-- For an isometric continuous functional calculus for `a` over `IsROrC 𝕜`, the range is
+precisely the `elementralStarAlgebra` generated by `a`. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:639]:
```suggestion
/-- For an isometric continuous functional calculus for `a` over `IsROrC 𝕜`, the range is
precisely the `elementalStarAlgebra` generated by `a`. -/
```
It's really annoying when a spelling error makes it into muscle memory :-)

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 13]
```diff
@@ -0,0 +1,1111 @@
...
+    ∃ f : C(𝕜, 𝕜), cfc₂ 𝕜 a f = x := by
+  rwa [← cfc₂_range] at hx
+
+end Normed
+
+end IsROrC
+
+/-!
+## Restriction of the spectrum
+
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:654]: Should this stuff be in this file? None of it looks specific to the CFC.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 14]
```diff
@@ -0,0 +1,1111 @@
...
+    convert cfc₁_map_X S a
+    ext x
+    simp only [Polynomial.eval_X, Subtype.map_coe, Polynomial.toContinuousMapOn_apply,
+      ContinuousMap.coe_mk, ContinuousMap.comp_apply, Polynomial.toContinuousMap_apply,
+      StarAlgHom.ofId_apply]
+    exact h.rightInvOn x.prop
+
+-- note: the hypotheses `[metric_space R] [metric_space S] [compact_space (spectrum S a)]
+-- [complete_space R] (h_isom : isometry (algebraMap R S)) are probably too strong, but they make
+-- the proof that it is a `ClosedEmbedding` significantly easier, and they apply in the cases we
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:810]: Again the Lean 3 stuff needs to be ported.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 15]
```diff
@@ -0,0 +1,1111 @@
...
+        rw [h_isom.dist_eq]
+        congr <;> exact Subtype.ext hy.symm }
+
+/-- If the spectrum of `a` restricts from `S` to `R`, then so does `cfc₁ g` for any
+`g : C(spectrum R a, R)`. You should use this lemma manually to prove the spectrum restriction
+result for continuous functional calculi whenever you use one of the definitions above to create an
+instance.
+
+Tou can use this to prove that, for exmaple, the spectrum (in `ℂ`) of the image of a positive
+operator is nonnegative. -/
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:869]:
```suggestion
You can use this to prove that, for exmaple, the spectrum (in `ℂ`) of the image of a positive
operator is nonnegative. -/
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 16]
```diff
@@ -0,0 +1,1111 @@
...
+theorem SpectrumRestricts.cfc_spectrumRestricts {R : Type u} {S : Type v} {A : Type w}
+    [CommSemiring R] [StarRing R] [MetricSpace R] [TopologicalSemiring R] [ContinuousStar R]
+    [CommSemiring S] [StarRing S] [MetricSpace S] [TopologicalSemiring S] [ContinuousStar S]
+    [Ring A] [StarRing A] [TopologicalSpace A] [Algebra R S] [Algebra R A] [Algebra S A]
+    [IsScalarTower R S A] [StarModule R S] [ContinuousSMul R S] {a : A} [CFCClass S a]
+    (f : C(S, R)) (h : SpectrumRestricts a f) (g : C(spectrum R a, R)) :
+    SpectrumRestricts (@cfc₁ _ _ _ _ _ _ _ _ _ _ _ _ (h.cfcCore f) g) f :=
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:876]:
```suggestion
    SpectrumRestricts (@cfc₁ _ _ _ _ _ _ _ _ _ _ _ _ (h.cfcCore f) g) f :=
```
How about using named parameters here?

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 17]
```diff
@@ -0,0 +1,1111 @@
...
+      nth_rw 1 [← hx]
+      rwa [h.left_inv]
+    left_inv := h.left_inv }
+
+end Universal
+
+section ComplexToReal
+
+noncomputable instance CfcCore.complexToReal {A : Type*} [Ring A] [StarRing A] [TopologicalSpace A]
+    [Algebra ℂ A] {a : A} [CFCCoreClass ℂ a] [h : SpectrumRestricts a ContinuousMap.complexRe] :
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:891]:
```suggestion
noncomputable instance CfcCore.complexToReal {A : Type*} [Ring A] [StarRing A] [TopologicalSpace A]
    [Algebra ℂ A] {a : A} [CFCCoreClass ℂ a] [h : SpectrumRestricts a ContinuousMap.complexRe] :
```
Shouldn't it be `CFC` instead of `Cfc` here and below?

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 18]
```diff
@@ -0,0 +1,1111 @@
...
+    [h : SpectrumRestricts a ContinuousMap.complexRe] (g : C(spectrum ℝ a, ℝ)) :
+    SpectrumRestricts (@cfc₁ _ _ _ _ _ _ _ _ _ _ _ _ (h.cfcCore ContinuousMap.complexRe) g)
+      ContinuousMap.complexRe :=
+  h.cfc_spectrumRestricts _ g
+
+instance CfcSpectrumRestricts.complexToReal' {A : Type*} [Ring A] [StarRing A]
+    [TopologicalSpace A] [Algebra ℂ A] {a : A} [CFCClass ℂ a]
+    [h : SpectrumRestricts a ContinuousMap.complexRe] (g : C(ℝ, ℝ)) :
+    SpectrumRestricts (@cfc₂ _ _ _ _ _ _ _ _ _ _ _ _ (h.cfcCore ContinuousMap.complexRe) g)
+      ContinuousMap.complexRe := by
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:911]: Again, looks like named parameters might be in order.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 19]
```diff
@@ -0,0 +1,1111 @@
...
+      ContinuousMap.toNNReal := by
+  rw [cfc₂, StarAlgHom.coe_comp, Function.comp_apply]
+  infer_instance
+
+end RealToNNReal
+
+-- this is the instance you would need to add in order to get things to work if you had an algebra
+-- over `ℂ` instead of one over `ℝ` in what follows. Of course, for C⋆-algebras we already have
+-- a proof of this (or rather, it follows easily), but for matrices you could provide it
+-- real_to_nnreal.
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:957]:
```suggestion
-- a proof of this (or rather, it follows easily), but for matrices you could provide it
-- realToNNReal.
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 20]
```diff
@@ -0,0 +1,1111 @@
...
+/-
+instance self_adjoint.SpectrumRestricts {A : Type*} [ring A] [star_ring A] [topological_space A]
+  [algebra ℂ A] {a : self_adjoint A} : SpectrumRestricts (a : A) continuous_map.complex_re :=
+sorry
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:961]: Again some Lean 3 here.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 21]
```diff
@@ -0,0 +1,1111 @@
...
+-/
+theorem cfc₂_real_isSelfAdjoint {A : Type*} [Ring A] [StarRing A] [TopologicalSpace A]
+    [Algebra ℝ A] (a : A) [CFCClass ℝ a] (f : C(ℝ, ℝ)) : IsSelfAdjoint (cfc₂ ℝ a f) :=
+  show star _ = _ by rw [← map_star, star_trivial]
+
+-- composition still works as long as we have propositinal equality of the intermediate elements.
+theorem selfAdjoint.cfc₂_comp {A : Type*} [Ring A] [StarRing A] [TopologicalSpace A] [Algebra ℝ A]
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:968]:
```suggestion
-- composition still works as long as we have propositional equality of the intermediate elements.
theorem selfAdjoint.cfc₂_comp {A : Type*} [Ring A] [StarRing A] [TopologicalSpace A] [Algebra ℝ A]
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 22]
```diff
@@ -0,0 +1,1111 @@
...
+    (a b : selfAdjoint A) (f g : C(ℝ, ℝ)) [CFCClass ℝ (a : A)]
+    [Subsingleton (CFCCoreClass ℝ (cfc₂ ℝ (a : A) f))]
+    -- alternatively: [compact_space (spectrum ℝ (cfc₂ (a : A) f))] [t2_space A]
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:971]:
```suggestion
    -- alternatively: [CompactSpace (spectrum ℝ (cfc₂ (a : A) f))] [T2Space A]
```

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 23]
```diff
@@ -0,0 +1,1111 @@
...
+
+theorem cfcℝ_neg_comm (a : selfAdjoint A) (f : C(ℝ, ℝ)) :
+    cfcℝ (-a) f = cfcℝ a (f.comp (-ContinuousMap.id ℝ)) := by rw [cfcℝ_comp, map_neg, cfcℝ_map_id]
+
+/-
+We should not actually define the positive parts and negative parts like this because then it won't
+work for non-unital algebras. We first need to develop the non-unital cfc.
+
+These are included here for the moment as a proof of concept, but are intended to be removed before
+this PR is merged.
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/CFC.lean:1060]:
```suggestion
These are included here for the moment as a proof of concept, but are intended to be removed before
this PR is merged.
```
I guess now's the time :-)

**Review by dupuisf — COMMENTED** [review]
I just made a first pass -- looks good overall, thanks for this massive coding effort! I'm still a bit skeptical of some design choices, like using `Subsingleton` instances instead of having `Prop`-valued type classes with an existential, but I think we should stick with this design for now and bikeshed later once we see where the pain points are.

File: Mathlib/Topology/ContinuousFunction/CFC.lean [hunk 24]
```diff
@@ -0,0 +1,1111 @@
...
+end prereqs
+
+/-!
+## Definitions
+-/
+
+/-- This class exists because under modest hypotheses, we can get a `Subsingleton` instance for it.
+In general, one should create instances of `CFCClass` instead. -/
+@[ext (flat := false)]
+class CFCCoreClass (R : Type*) {A : Type*} [CommSemiring R] [StarRing R] [TopologicalSpace R]
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/CFC.lean:164]: See [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/!4.233360.20new.20ext.20lemma.20generation/near/351104478). Basically, it means that the generated `ext` lemma takes as a hypothesis that the `StarAlgHom`s are equal, instead of that the underlying functions are equal. This way we can use `ext` lemmas specific to `StarAlgHom` afterwards.

File: Mathlib/Topology/ContinuousFunction/CFC.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/CFC.lean:639]: Sorry, this was the result of a bad search and replace.

**Comment by YaelDillies** [comment]
What's the status here? I am very excited!

**Comment by j-loreaux** [comment]
Thanks Monica, I have something like this in local code which I'll include in a PR shortly. I'll leave it out of this PR for now so that it makes review easier (as we're already at 700 lines).

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 25]
```diff
@@ -0,0 +1,696 @@
...
+    (h : φ (.restrict (spectrum R a) <| .id R) = ψ (.restrict (spectrum R a) <| .id R)) :
+    φ = ψ :=
+  UniqueContinuousFunctionalCalculus.eq_of_continuous_of_map_id a φ ψ hφ hψ h
+
+section cfcSpec
+
+variable {a : A} (ha : p a)
+
+-- Note: since `spectrum R a` is closed, we may always extend `f : C(spectrum R a, R)` to a function
+-- of type `C(R, R)` by the Tietze extension theorem (assuming `R` is either `ℝ`, `ℂ` or `ℝ≥0`).
```
Comment (ADedecker) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:198]: Is this note still relevant?

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:198]: I think it's nice to leave it as a reminder to the reader, especially since we now have the nice `TietzeExtension` class, but it's certainly less relevant than it used to be. I can remove it if you prefer.

**Review by ADedecker — COMMENTED** [review]
I haven't looked at everything yet, but this looks very clean! Thanks a lot!

**Comment by YaelDillies** [comment]
Love the module doc!

Is there any chance you can reduce the diff a tiny bit more by eg splitting off the `fun_prop` taggings?

**Comment by j-loreaux** [comment]
@YaelDillies done, see #10769

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 25 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:198]: No problem with keeping it, just wanted to make sure it was supposed to be here.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 26]
```diff
@@ -0,0 +1,688 @@
...
+not continuous on the spectrum of `a`, then `cfc a f` returns the junk value `0`.
+
+This is the primary declaration intended for widespread use of the continuous functional calculus,
+and all the API applies to this declaration. For more information, see the module documentation
+for `Topology.ContinuousFunction.FunctionalCalculus`. -/
+noncomputable irreducible_def cfc (a : A) (f : R → R) : A := by
+  classical
+  exact if h : p a ∧ ContinuousOn f (spectrum R a)
+    then cfcSpec h.1 ⟨_, h.2.restrict⟩
+    else 0
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:283]:
```suggestion
open Classical in
/-- This is the *continuous functional calculus* of an element `a : A` applied to bare functions.
When either `a` does not satisfy the predicate `p` (i.e., `a` is not `IsStarNormal`,
`IsSelfAdjoint`, or `0 ≤ a` when `R` is `ℂ`, `ℝ`, or `ℝ≥0`, respectively), or when `f : R → R` is
not continuous on the spectrum of `a`, then `cfc a f` returns the junk value `0`.

This is the primary declaration intended for widespread use of the continuous functional calculus,
and all the API applies to this declaration. For more information, see the module documentation
for `Topology.ContinuousFunction.FunctionalCalculus`. -/
noncomputable irreducible_def cfc (a : A) (f : R → R) : A :=
  if h : p a ∧ ContinuousOn f (spectrum R a)
    then cfcSpec h.1 ⟨_, h.2.restrict⟩
    else 0
```
I think this is much nicer than using tactic mode for a def.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 27]
```diff
@@ -0,0 +1,688 @@
...
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg ha]
+
+lemma cfc_apply_of_not {f : R → R} (ha : ¬ p a) :
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg (not_and_of_not_left _ ha)]
+
+lemma cfc_apply_of_not' {f : R → R} (hf : ¬ ContinuousOn f (spectrum R a)) :
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg (not_and_of_not_right _ hf)]
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:302]:
```suggestion
lemma cfc_apply_of_not_predicate {f : R → R} (ha : ¬ p a) :
    cfc a f = 0 := by
  rw [cfc_def, dif_neg (not_and_of_not_left _ ha)]

lemma cfc_apply_of_not_continuous {f : R → R} (hf : ¬ ContinuousOn f (spectrum R a)) :
    cfc a f = 0 := by
  rw [cfc_def, dif_neg (not_and_of_not_right _ hf)]
```
How about these more explicit names?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 28]
```diff
@@ -0,0 +1,688 @@
...
+  rw [cfc_apply a (fun _ : R ↦ r), ← AlgHomClass.commutes (cfcSpec ha (p := p)) r]
+  congr
+
+variable (R)
+
+lemma cfc_one (ha : p a := by cfc_tac) : cfc a (1 : R → R) = 1 :=
+  cfc_apply a (1 : R → R) ▸ map_one (cfcSpec (show p a from ha))
+
+lemma cfc_one' (ha : p a := by cfc_tac) : cfc a (fun _ : R ↦ 1) = 1 :=
+  cfc_one R a
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:354]:
```suggestion
lemma cfc_const_one (ha : p a := by cfc_tac) : cfc a (fun _ : R ↦ 1) = 1 :=
  cfc_one R a
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 29]
```diff
@@ -0,0 +1,688 @@
...
+
+@[simp]
+lemma cfc_zero : cfc a (0 : R → R) = 0 := by
+  by_cases ha : p a
+  · exact cfc_apply a (0 : R → R) ▸ map_zero (cfcSpec ha)
+  · rw [cfc_apply_of_not a ha]
+
+@[simp]
+lemma cfc_zero' : cfc a (fun _ : R ↦ 0) = 0 :=
+  cfc_zero R a
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:364]:
```suggestion
lemma cfc_const_zero : cfc a (fun _ : R ↦ 0) = 0 :=
  cfc_zero R a
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 30]
```diff
@@ -0,0 +1,688 @@
...
+
+variable {R}
+
+lemma cfc_mul (f g : R → R)
+    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac)
+    (hg : ContinuousOn g (spectrum R a) := by cfc_cont_tac) :
+    cfc a (fun x ↦ f x * g x) = cfc a f * cfc a g := by
+  have : ContinuousOn f (spectrum R a) := hf -- hack
+  have : ContinuousOn g (spectrum R a) := hg -- hack
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:373]: We should probably make some noise about this issue, `assumption` and `aesop` should be able to see through this autoparam stuff.

**Review by dupuisf — APPROVED** [review]
I just have a few more cosmetic comments, otherwise I'm happy to merge this once the other reviewers are also happy. This really feels like the right way to do this, I'm quite excited!

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 30 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:373]: They can. That's not the problem. It's that where `hf` and `hg` are used, we need `fun_prop`, and *it* can't see through them. This will be fixed in #10724.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 31]
```diff
@@ -0,0 +1,676 @@
...
+additional advantage of the unbundled approach is that expressions like `fun x : R ↦ x⁻¹` are valid
+arguments to `cfc a`, and a bundled continuous counterpart can only make sense when the spectrum of
+`a` does not contain zero and when we have an `⁻¹` operation on the domain.
+
+A reader familiar with C⋆-algebra theory may be somewhat surprised at the level of abstraction here.
+For instance, why not require `A` to be an actual C⋆-algebra? Why define separate continuous
+functional calculi for `R := ℂ`, `ℝ` or `ℝ≥0` instead of simply using the continuous functional
+calculus for normal elements? The reason for both can be explained with a simple example,
+`A := Matrix n n ℝ`. In Mathlib, matrices are not equipped with a norm (nor even a metric), and so
+requiring `A` to be a C⋆-algbera is far too stringent. Likewise, `A` is not a `ℂ`-algebra, and so
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:55]:
```suggestion
`A := Matrix n n ℝ`. In Mathlib, matrices are not equipped with a norm (nor even a metric), and so
requiring `A` to be a C⋆-algebra is far too stringent. Likewise, `A` is not a `ℂ`-algebra, and so
```

**Review by dupuisf — COMMENTED** [review]
@ADedecker @YaelDillies would you like to have a last look before we push the button?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 32]
```diff
@@ -0,0 +1,676 @@
...
+calculus for normal elements? The reason for both can be explained with a simple example,
+`A := Matrix n n ℝ`. In Mathlib, matrices are not equipped with a norm (nor even a metric), and so
+requiring `A` to be a C⋆-algebra is far too stringent. Likewise, `A` is not a `ℂ`-algebra, and so
+it is impossible to consider the `ℂ`-spectrum of `a : Matrix n n ℝ`.
+
+There is another, more practical reason to define separate continuous functional calculi for
+different scalar rings. It gives us the ability to use functions defined on these types, and the
+algebra of functions on them. For example, in `ℝ` it is quite natural to consider the functions
+`(·⁺ : ℝ → ℝ)` and `(·⁻ : ℝ → ℝ)` because the collection of such functions forms a lattice ordered
+group. If `a : A` is selfadjoint, and we define `a⁺ := cfc a (·⁺ : ℝ → ℝ)`, and likewise for `a⁻`,
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:62]: It is not clear to me what you're referring to by "the collection of such functions". Do you mean the "algebra of functions on them"? because here you're mentioning `(·⁺ : ℝ → ℝ)`, not `(·⁺ : (ℝ → ℝ) → ℝ → ℝ)`. Worth rephrasing.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 33]
```diff
@@ -0,0 +1,676 @@
...
+and `p := IsStarNormal`. In this case, `spectrum ℂ a` consists of the eigenvalues of the normal
+matrix `a : Matrix n n ℂ`, and, because this set is discrete, any function is continuous on the
+spectrum. The continuous functional calculus allows us to make sense of expressions like `log a`
+(`:= cfc a log`), and when `0 ∉ spectrum ℂ a`, we get the nice property `exp (log a) = a`, which
+arises from the composition property `cfc (cfc log a) exp = cfc (exp ∘ log) a = cfc id a = a`, since
+`exp ∘ log = id` *on the spectrum of `a`*. Of course, there are other ways to make sense of `exp`
+and `log` for matrices (power series), and these agree with the continuous functional calculus.
+In fact, given `f : C(spectrum ℂ a, ℂ)`, `cfc a f` amounts to diagonalizing `a` (possible since `a`
+is normal), and applying `f` to the resulting diagonal entries. That is, if `a = u * d * star u`
+with `u` a unitary matrix and `d` diagonal, then `cfc a f = u * (d.map f) * star u`.
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:79]: Just noting the brackets are not necessary.
```suggestion
with `u` a unitary matrix and `d` diagonal, then `cfc a f = u * d.map f * star u`.
```
Are you putting them for clarity? I'm not sure it helps much.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 34]
```diff
@@ -0,0 +1,676 @@
...
+  cfc a (NNReal.sqrt ^ 2) = cfc a id = a
+```
+The composition property allows us to show that, in fact, this is the *unique* positive semidefinite
+square root of `a` because, if `b` is any positive semidefinite square root, then
+```
+b = cfc b id = cfc b (NNReal.sqrt ∘ (· ^ 2)) =
+  cfc (cfc b (· ^ 2)) NNReal.sqrt = cfc a NNReal.sqrt = √a
+```
+
+## Main statements
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:96]:
```suggestion
## Main declarations
```
since you're including a class in here

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 35]
```diff
@@ -0,0 +1,676 @@
...
+
+This class will have instances in each of the common cases `ℂ`, `ℝ` and `ℝ≥0` as a consequence of
+the Stone-Weierstrass theorem. -/
+class UniqueContinuousFunctionalCalculus (R A : Type*) [CommSemiring R] [StarRing R]
+    [MetricSpace R] [TopologicalSemiring R] [ContinuousStar R] [Ring A] [StarRing A]
+    [TopologicalSpace A] [Algebra R A] : Prop where
+  eq_of_continuous_of_map_id (a : A) (φ ψ : C(spectrum R a, R) →⋆ₐ[R] A)
+    (hφ : Continuous φ) (hψ : Continuous ψ)
+    (h : φ (.restrict (spectrum R a) <| .id R) = ψ (.restrict (spectrum R a) <| .id R)) :
+    φ = ψ
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:181]: Something that's worth mentioning is why you need two classes here instead of a single one.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 36]
```diff
@@ -0,0 +1,676 @@
...
+
+In this case, the user must supply the fact that `a` satisfies the predicate `p`, for otherwise it
+may be the case that no star algebra homomorphism exists. For instance if `R := ℝ` and `a` is an
+element whose spectrum (in `ℂ`) is disjoint from `ℝ`, then `spectrum ℝ a = ∅` and so there can be
+no star algebra homomorphism between these spaces.
+
+While `ContinuousFunctionalCalculus` is stated in terms of these homomorphisms, in practice the
+user should instead prefer `cfc` over `cfcSpec`.
+-/
+def cfcSpec : C(spectrum R a, R) →⋆ₐ[R] A :=
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:211]: What does "spec" stand for? "specification"? "spectrum"? I would have expected
```suggestion
def cfcHom : C(spectrum R a, R) →⋆ₐ[R] A :=
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 37]
```diff
@@ -0,0 +1,676 @@
...
+lemma cfcSpec_map_id :
+    cfcSpec ha ((ContinuousMap.id R).restrict <| spectrum R a) = a :=
+  ContinuousFunctionalCalculus.hom_id ha
+
+/-- The **spectral mapping theorem** for the continuous functional calculus. -/
+lemma cfcSpec_map_spectrum (f : C(spectrum R a, R)) :
+    spectrum R (cfcSpec ha f) = Set.range f :=
+  ContinuousFunctionalCalculus.hom_map_spectrum ha f
+
+lemma cfcSpec_predicate (f : C(spectrum R a, R)) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:227]: Sounds stupid, but this is actually the convention:
```suggestion
lemma cfcSpec_spec (f : C(spectrum R a, R)) :
```
cf `Classical.some_spec`, `Nat.find_spec`...

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 38]
```diff
@@ -0,0 +1,676 @@
...
+
+lemma cfc_apply_of_not_and {f : R → R} (ha : ¬ (p a ∧ ContinuousOn f (spectrum R a))) :
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg ha]
+
+lemma cfc_apply_of_not_predicate {f : R → R} (ha : ¬ p a) :
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg (not_and_of_not_left _ ha)]
+
+lemma cfc_apply_of_not_continuous {f : R → R} (hf : ¬ ContinuousOn f (spectrum R a)) :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:300]:
```suggestion
lemma cfc_apply_of_not_continuousOn {f : R → R} (hf : ¬ ContinuousOn f (spectrum R a)) :
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 39]
```diff
@@ -0,0 +1,676 @@
...
+    cfc a f = 0 := by
+  rw [cfc_def, dif_neg (not_and_of_not_right _ hf)]
+
+variable (R) in
+lemma cfc_id (ha : p a := by cfc_tac) : cfc a (id : R → R) = a :=
+  cfc_apply a (id : R → R) ▸ cfcSpec_map_id (p := p) ha
+
+variable (R) in
+lemma cfc_id' (ha : p a := by cfc_tac) : cfc a (fun x : R ↦ x) = a :=
+  cfc_id R a
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:310]: Can one of these be simp?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 40]
```diff
@@ -0,0 +1,676 @@
...
+  by_cases h : p a ∧ ContinuousOn g (spectrum R a)
+  · rw [cfc_apply (ha := h.1) (hf := h.2.congr hfg), cfc_apply (ha := h.1) (hf := h.2)]
+    congr
+    exact Set.restrict_eq_iff.mpr hfg
+  · obtain (ha | hg) := not_and_or.mp h
+    · simp [cfc_apply_of_not_predicate a ha]
+    · rw [cfc_apply_of_not_continuous a hg, cfc_apply_of_not_continuous]
+      exact fun hf ↦ hg (hf.congr hfg.symm)
+
+lemma eqOn_of_cfc_eq {f g : R → R} (h : cfc a f = cfc a g) (ha : p a := by cfc_tac)
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:334]:
```suggestion
lemma eqOn_of_cfc_eq_cfc {f g : R → R} (h : cfc a f = cfc a g) (ha : p a := by cfc_tac)
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 41]
```diff
@@ -0,0 +1,676 @@
...
+    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac)
+    (hg : ContinuousOn g (spectrum R a) := by cfc_cont_tac) :
+    (spectrum R a).EqOn f g := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:337]: Can you put these two together as an iff?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 42]
```diff
@@ -0,0 +1,676 @@
...
+  rw [cfc_apply a (fun _ : R ↦ r), ← AlgHomClass.commutes (cfcSpec ha (p := p)) r]
+  congr
+
+variable (R)
+
+lemma cfc_one (ha : p a := by cfc_tac) : cfc a (1 : R → R) = 1 :=
+  cfc_apply a (1 : R → R) ▸ map_one (cfcSpec (show p a from ha))
+
+lemma cfc_const_one (ha : p a := by cfc_tac) : cfc a (fun _ : R ↦ 1) = 1 :=
+  cfc_one R a
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:354]: Similarly here can one of these be simp?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 43]
```diff
@@ -0,0 +1,676 @@
...
+
+lemma cfc_star (f : R → R) : cfc a (fun x ↦ star (f x)) = star (cfc a f) := by
+  by_cases h : p a ∧ ContinuousOn f (spectrum R a)
+  · obtain ⟨ha, hf⟩ := h
+    rw [cfc_apply a f, ← map_star, cfc_apply a _]
+    congr
+  · obtain (ha | hf) := not_and_or.mp h
+    · simp [cfc_apply_of_not_predicate a ha]
+    · rw [cfc_apply_of_not_continuous a hf, cfc_apply_of_not_continuous, star_zero]
+      exact fun hf_star ↦ hf <| by simpa using hf_star.star
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:416]: All of these should either be stated for beta-reduced functions or for non-beta-reduced functions, but not a mix of both. Personally I think we need both versions, eg
```
lemma cfc_mul' (f g : R → R)
    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac)
    (hg : ContinuousOn g (spectrum R a) := by cfc_cont_tac) :
    cfc a (f * g) = cfc a f * cfc a g := sorry

lemma cfc_mul (f g : R → R)
    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac)
    (hg : ContinuousOn g (spectrum R a) := by cfc_cont_tac) :
    cfc a (fun x ↦ f x * g x) = cfc a (fun x ↦ f x) * cfc a (fun x ↦ g x) := sorry
```
What will happen if you don't do that is that your functions might accidentally get beta-reduced during a rewrite, forcing you to unreduce them again to be able to rewrite further.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 44]
```diff
@@ -0,0 +1,676 @@
...
+
+end Basic
+
+section Inv
+
+variable {R A : Type*} {p : A → Prop} [Semifield R] [StarRing R] [MetricSpace R]
+variable [TopologicalSemiring R] [ContinuousStar R] [HasContinuousInv₀ R] [TopologicalSpace A]
+variable [Ring A] [StarRing A] [Algebra R A] [ContinuousFunctionalCalculus R p]
+
+lemma cfc_isUnit_iff (a : A) (f : R → R) (ha : p a := by cfc_tac)
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:543]:
```suggestion
lemma isUnit_cfc_iff (a : A) (f : R → R) (ha : p a := by cfc_tac)
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 45]
```diff
@@ -0,0 +1,676 @@
...
+    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac) :
+    IsUnit (cfc a f) ↔ ∀ x ∈ spectrum R a, f x ≠ 0 := by
+  rw [← spectrum.zero_not_mem_iff R, cfc_map_spectrum ..]
+  aesop
+
+alias ⟨_, cfc_isUnit⟩ := cfc_isUnit_iff
+
+/-- Bundle `cfc a f` into a unit given a proof that `f` is nonzero on the spectrum of `a`. -/
+@[simps]
+noncomputable def cfc_units (a : A) (f : R → R) (hf' : ∀ x ∈ spectrum R a, f x ≠ 0)
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:553]:
```suggestion
noncomputable def cfcUnits (a : A) (f : R → R) (hf' : ∀ x ∈ spectrum R a, f x ≠ 0)
```

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 37 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:227]: I don't think that applies here. That naming convention applies when you apply some variant of `Classical.choice` and you want the predicate it satisfies. That's not what's going on here. In this case `predicate` refers to the `p` which is an outParam in `ContinuousFunctionalCalculus`.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 39 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:310]: It would fire if it were, see [lean4#3475](https://github.com/leanprover/lean4/issues/3475)

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 42 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:354]: It would fire if it were, see [lean4#3475](https://github.com/leanprover/lean4/issues/3475)

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 43 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:416]: @ADedecker @dupuisf @lecopivo what do you think here? Personally, I prefer `f * g`, but went with the expanded versions because that's what `fun_prop` needed at the time. Currently, `fun_prop` still needs it this way, but that's actually only because of *existing* lemmas. That is, we have [Continuous.mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Monoid.html#Continuous.mul), but no `Continuous.mul'` variant.

I guess the question is: can we uniformize across the library on a particular version, do we just need better automation, or is Yaël right that we need both versions everywhere (:cry: that's a lot of duplication).

(Also note, this isn't beta reduction, because that would need to be applied to an argument.)

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 37 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: I disagree. See eg `ringChar.spec`, `maxChain_spec`, `Group.rank_spec` for more examples where `_spec` is used to indicate that some constructed object respects some property.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 43 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: Sorry, I of course meant "<insert correct greek letter>-reduced", where here we may take <insert correct greek letter> = eta. 😀

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 37 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: I agree that this is not specific to things obtained by choice, but I do think it doesn't apply here: `spec` stands for "specification", all of these lemmas are the defining property of some object, which isn't the case here.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 46]
```diff
@@ -0,0 +1,689 @@
...
+calculus for normal elements? The reason for both can be explained with a simple example,
+`A := Matrix n n ℝ`. In Mathlib, matrices are not equipped with a norm (nor even a metric), and so
+requiring `A` to be a C⋆-algebra is far too stringent. Likewise, `A` is not a `ℂ`-algebra, and so
+it is impossible to consider the `ℂ`-spectrum of `a : Matrix n n ℝ`.
+
+There is another, more practical reason to define separate continuous functional calculi for
+different scalar rings. It gives us the ability to use functions defined on these types, and the
+algebra of functions on them. For example, in `ℝ` it is quite natural to consider the functions
+`(·⁺ : ℝ → ℝ)` and `(·⁻ : ℝ → ℝ)` because the functions `ℝ → ℝ` form a lattice ordered
+group. If `a : A` is selfadjoint, and we define `a⁺ := cfc a (·⁺ : ℝ → ℝ)`, and likewise for `a⁻`,
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:62]: I still don't understand this sentence. `·⁺ : ℝ → ℝ` exists because `ℝ → ℝ` is a lattice ordered group, not because `ℝ` is a lattice ordered group. Am I missing something obvious?

**Comment by ADedecker** [comment]
> @ADedecker @YaelDillies would you like to have a last look before we push the button?

Yes, I'll have a final look in the next few hours. I'm excited!

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 46 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:62]: I think you're confusing the positive part *of a function* with the "positive part function" (aka positive part of the identity). Jireh is talking about the second I think.

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:62]: oh, do you mean the "in `ℝ`" bit?

**Comment by j-loreaux** [comment]
Two final notes to reviewers:

1. Currently, almost everything is just dropped into the root namespace. Should we hide any / all of these behind a namespace?
2. Anatole pointed out to me that the current setup has the unfortunate side effect that we can't put the C⋆-norm as a local instance on matrices without then getting conflicts for `cfc` (i.e., two different instances of `ContinuousFunctionalCalculus`). One fix for this would be to turn the class into a `Prop` (this is relatively easy and only takes changes to a few lines). Since the cfc is unique in all cases we care about, this doesn't really hurt us. The only issue is that, in order to use properties specific to a particular version (e.g., on a C⋆-algebra it's an isometry), we would need to first identify it with an existing thing that we know is an isometry. With the non-`Prop` version, we can just appeal to the definition. I'm inclined to make it a `Prop`.

**Comment by YaelDillies** [comment]
I tend to agree it could be a Prop (everything is highly noncomputable and you can't take products and pi types anyway), but I would need to see how it would look like.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 43 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: I always go for `f * g` just because it's cleaner, but I get that it may not be the easiest to rewrite with. I think the safest option is to expand everything for now because it matches more closely the existing API (even though that makes me a bit sad...). The outlier here is definitely composition though, which we usually do *not* eta-expand (e.g [Continuous.comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#Continuous.comp) and [Continuous.comp'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#Continuous.comp') are named in the reverse order).

**Comment by j-loreaux** [comment]
@YaelDillies see https://github.com/leanprover-community/mathlib4/tree/j-loreaux%2Funital-cfc-class-prop

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 43 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: I've switched `cfc_comp` and `cfc_comp'`

**Comment by OmarMohsenGit** [comment]
Out of curiosity do you know a (studied) case where cfc isn't unique?

**Comment by j-loreaux** [comment]
@OmarMohsenGit I guess it depends on what you mean. Among functional calculi that people use, no, but if you take a non-compact set `s` to replace the spectrum and look at all continuous functions (not just those vanishing at infinity), then I think it likely won't be unique (because Stone--Weierstrass doesn't apply). So, with the type class assumptions that we have available I don't think it's provable, because for compactness of the spectrum we'd need a Banach algebra.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 43 above)
Comment (dupuisf) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean]: I personally prefer the reduced versions, I find that they're usually easier to work with.

**Comment by dupuisf** [comment]
> Two final notes to reviewers:
> 
>     1. Currently, almost everything is just dropped into the root namespace. Should we hide any / all of these behind a namespace?

Since pretty much everything is named `cfc_something` I think it's fine.

>     2. Anatole pointed out to me that the current setup has the unfortunate side effect that we can't put the C⋆-norm as a local instance on matrices without then getting conflicts for `cfc` (i.e., two different instances of `ContinuousFunctionalCalculus`). One fix for this would be to turn the class into a `Prop` (this is relatively easy and only takes changes to a few lines). Since the cfc is unique in all cases we care about, this doesn't really hurt us. The only issue is that, in order to use properties specific to a particular version (e.g., on a C⋆-algebra it's an isometry), we would need to first identify it with an existing thing that we know is an isometry. With the non-`Prop` version, we can just appeal to the definition. I'm inclined to make it a `Prop`.

Well, I was in favor of this solution pretty much from the start -- I'm glad Anatole found a concrete issue to make my vague concerns more substantial :-)

**Comment by j-loreaux** [comment]
Alright, I've switch to a `Prop` version. The switch is painless, so if we decide sometime soon that we want to go back, then we can, but I think this is preferable too.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 47]
```diff
@@ -0,0 +1,685 @@
...
+    (hf : ContinuousOn f (spectrum R a) := by cfc_cont_tac) :
+    cfc a (fun x ↦ q.eval (f x)) = aeval (cfc a f) q := by
+  induction q using Polynomial.induction_on with
+  | h_C r => simp [cfc_const a r]
+  | h_add q₁ q₂ hq₁ hq₂ =>
+    simp only [eval_add, map_add, ← hq₁, ← hq₂, cfc_add a (q₁.eval <| f ·) (q₂.eval <| f ·)]
+  | h_monomial n r _ =>
+    simp only [eval_mul, eval_C, eval_pow, eval_X, map_mul, aeval_C, map_pow, aeval_X]
+    rw [cfc_const_mul .., cfc_pow _ _ (n + 1),
+      ← smul_eq_mul, algebraMap_smul]
```
Comment (ADedecker) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:465]: If you add
```lean
open Polynomial in
lemma cfcHom_map_polynomial (q : R[X]) (f : C(spectrum R a, R)) :
    cfcHom ha (aeval f q) = aeval (cfcHom ha f) q :=
  .symm <| aeval_algHom_apply _ _ _
```
as well as
```lean
@[simp]
lemma ContinuousMap.aeval_apply {X R A : Type*} [CommSemiring R] [TopologicalSpace X]
    [TopologicalSpace A] [CommSemiring A] [Algebra R A] [TopologicalSemiring A]
    (f : C(X, A)) (q : R[X]) (x : X) :
    aeval f q x = aeval (f x) q := by
  rw [← coeFnAlgHom_apply R, ← aeval_algHom_apply]
  -- note : aeval_fn_apply should be generalized to algebras
  exact .symm <| aeval_algHom_apply (Pi.evalAlgHom R (fun _ ↦ A) x) _ _
```
you can do
```suggestion
  rw [cfc_apply a _, cfc_apply a _, ← cfcHom_map_polynomial]
  congr 1
  ext x
  simp
```

This can wait for another PR.

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean [hunk 48]
```diff
@@ -0,0 +1,685 @@
...
+    cfc a (g ∘ f) = cfc (cfc a f) g := by
+  have := hg.comp hf <| (spectrum R a).mapsTo_image f
+  have sp_eq : spectrum R (cfcHom (show p a from ha) (ContinuousMap.mk _ hf.restrict)) =
+      f '' (spectrum R a) := by
+    rw [cfcHom_map_spectrum (by exact ha) _]
+    ext
+    simp
+  rw [cfc_apply .., cfc_apply a f]
+  rw [cfc_apply _ _ (cfcHom_predicate (show p a from ha) _) (by convert hg)]
+  rw [← cfcHom_comp _ _]
```
Comment (ADedecker) [inline Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:489]:
```suggestion
  rw [cfc_apply .., cfc_apply a f,
      cfc_apply _ _ (cfcHom_predicate (show p a from ha) _) (by convert hg), ← cfcHom_comp _ _]
```

**Review by ADedecker — APPROVED** [review]
Here is my final review! We may be able to clean up some other things at some point, but this is looking great!

Final question: do we really want this file in the `Topology` folder? I mean technically it doesn't mention any norm at all, but it feels like it should be in `Analysis`, no?

File: Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean (hunk 47 above)
Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/FunctionalCalculus.lean:462]: Nice! I'll wait for another PR just because `ContinuousMap.aeval_apply` should go in a different file.

**Comment by j-loreaux** [comment]
> Final question: do we really want this file in the `Topology` folder? I mean technically it doesn't mention any norm at all, but it feels like it should be in `Analysis`, no?

C⋆-algebras are just noncommutative topology, so I actually think we should move all of the C⋆-algebra material *into* the `Topology` folder. (:rofl: obviously joking)

In all seriousness, I considered both ways. On the one hand, it makes more sense in `Analysis`, but in another sense it's a bit weird to be importing that for matrices. I'm okay with putting it elsewhere, whatever reviewers decide.

**Comment by OmarMohsenGit** [comment]
I think creating an operator algebra folder is more logical but I am not experienced enough with mathlib.

**Comment by YaelDillies** [comment]
I think the folder doesn't matter too much at this point. We can always change it as we acquire more material.

**Comment by ADedecker** [comment]
The discussion around eta-expansion was not competely settled but I think 1) for now we definitely want the extended versions for `fun_prop` to work, and 2) this is easy to change later (and we will probably have to change some bits of the API anyway). So let's move forward!

bors r+

Thanks a lot! :tada:
